US07495007B2
Preparation of intermediate 2-(4-Chloro-2-formyl-phenoxy)-2-methyl-propionic acid ethyl ester
5-Chloro-2-hydroxy-benzaldehyde (7 g, 45 mmol), 2-bromo-2-methyl-propionic acid ethyl ester (11.4 g, 58 mmol), K2CO3 (18.6 g, 135 mmol) and KI (0.97 g, 5.8 mmol) were mixed in DMF (20 mL). Then the reaction mixture was heated at 110° C. for 3 h. The mixture was filtered and the filtrate was concentrated. The residue was dissolved in ethyl acetate and washed with 1N NaOH. Then the organic layer was separated, dried over Na2SO4 and concentrated to give title compound (7 g)

reactant | 5-Chloro-2-hydroxy-benzaldehyde | 45 mmol, 7 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | 2-bromo-2-methyl-propionic acid ethyl ester | 58 mmol, 11.4 g | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
reactant | K2CO3 | 135 mmol, 18.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(4-Chloro-2-formyl-phenoxy)-2-methyl-propionic acid ethyl ester | 7 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)Cl)C=O)=O | C13H15ClO4
